US09255223B2
A mixture of 50 g (0.14 mol) of 2,4-dioxo-9-(4-propylcyclohexyl)-3-aza-spiro[5.5]undecane-1,5-dicarbonitrile, 800 ml of glacial acetic acid and 1.51 of 60% sulfuric acid is stirred at 120-125° C. for 5 days. After cooling, the batch is added to ice-water and extracted a number of times with THF/MTBE (1:1). The combined organic phases are washed with saturated sodium chloride solution and dried using sodium sulfate. The solution is concentrated to dryness, and the residue is recrystallised from acetonitrile/THF (2:1), giving (4-carboxymethyl-4′-propylbicyclohexyl-4-yl)acetic acid as a beige solid.

reactant | 2,4-dioxo-9-(4-propylcyclohexyl)-3-aza-spiro[5.5]undecane-1,5-dicarbonitrile | 0.14 mol, 50 g | O=C1C(C2(C(C(N1)=O)C#N)CCC(CC2)C2CCC(CC2)CCC)C#N | C21H29N3O2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | acetic acid | 800 ml | C(C)(=O)O | C2H4O2
product | (4-carboxymethyl-4′-propylbicyclohexyl-4-yl)acetic acid | C(=O)(O)CC1(CCC(CC1)C1CCC(CC1)CCC)CC(=O)O | C19H32O4
